Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / Avapro
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Left Heart Catheterization on ___ 

 
History of Present Illness:
 ___ male history of hypertension, hl, with recent 
outpatient positive stress test (modified ___ protocol) which 
showed ___epressions in lead 1, V5,V6 with reproducible 
symptoms.  It was recommended that he go for same day 
catheterization, but the patient declined. 

He has had one month of chest pains a few times per week which 
were minor and only a "nuisance".  They were described as 
midsternal burning and resolved with rest.

At 2 AM on ___, he had constant worsening pain which radiated 
into the left shoulder. Called EMS and received nitroglycerin 
and aspirin which relieved the apin. Taken outside hospital had 
elevated troponin to trop 0.13, started on heparin bolus and 
drip and transferred to ___. 
 
 
In the ED, initial vitals were  97.4 60 162/89 16 100% RA 

EKG:
Labs/studies notable for:  Trop-T: 0.20, PTT: 107.6, INR: 0.9, 
wbc ct 11.8 
Patient was continued on heparin gtt
Vitals on transfer: 62 132/63 18 97% RA 

He was taken to the cardiac cath lab mid Lcx lesion with 1 DES 
placed. Access R radial with TR band. ASA, Plavix, IVF 1L

On the floor, he feels well he denies any chest pain or 
shortness of breath.  He otherwise feels well with only minor 
discomfort in his wrist. 
 
 
Past Medical History:
1. CARDIAC RISK FACTORS:  HTN

2. CARDIAC HISTORY:  
- CABG/PCI: As above 
- PUMP FUNCTION:  Not evaluated.
- PACING/ICD: None.  

3. OTHER PAST MEDICAL HISTORY: None 
 
Social History:
___
Family History:
No premature CAD, thromboembolic disease, aneurysmal disease.   
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================
 
Vitals: T: 97.7 BP: 122/70 HR: 60 RR: 16 Sp02: 100% RA 
General:  Elderly man appearing comfortable sitting in a chair 
reading. 
HEENT: Oropharynx without lesions
Neck:  No LAD
CV: RRR no m/r/g. 
Lungs:  On RA, no increased work of breathing, good air 
exchange, no wheezes, rales or ronchi
Abdomen: Soft, non-tender, non-distended 
Extr:  No peripheral edema. Bandage intact on right wrist. 
Neuro: AAOx3, moving all extremities.  

DISCHARGE PHYSICAL EXAM: 
========================

Vitals: T: 98.1 BP: 157/65 (prior to BP meds) HR: 53 RR: 20 
Sp02: 100% RA 
Wt: 95.2 I/O: ___ since MN. 
General:  Elderly man appearing comfortable sitting in a chair.
HEENT: Oropharynx without lesions
Neck:  No LAD
CV: RRR no m/r/g. 
Lungs:  On RA, no increased work of breathing, good air 
exchange, no wheezes, rales or ronchi
Abdomen: Soft, non-tender, non-distended 
Extr:  No peripheral edema. Bandage intact on right wrist. 
Neuro: AAOx3, moving all extremities.  

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 06:12AM BLOOD WBC-11.8* RBC-5.49 Hgb-17.0 Hct-50.6 
MCV-92 MCH-31.0 MCHC-33.6 RDW-12.4 RDWSD-42.1 Plt ___
___ 06:12AM BLOOD Neuts-77.1* Lymphs-13.4* Monos-7.6 
Eos-0.8* Baso-0.8 Im ___ AbsNeut-9.07* AbsLymp-1.58 
AbsMono-0.90* AbsEos-0.09 AbsBaso-0.09*
___ 06:12AM BLOOD ___ PTT-107.6* ___
___ 06:12AM BLOOD Plt ___
___ 06:12AM BLOOD Glucose-120* UreaN-17 Creat-0.9 Na-144 
K-3.8 Cl-101 HCO3-25 AnGap-22*
___ 06:12AM BLOOD CK-MB-9

CARDIAC LABS: 
=============
___ 06:12AM BLOOD CK-MB-9
___ 06:12AM BLOOD cTropnT-0.20*
___ 06:40AM BLOOD cTropnT-0.38*
___ 12:35PM BLOOD CK-MB-7 cTropnT-0.34*

PERTINENT IMAGING/STUDIES: 
===========================

___ CATH NOTE

Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD has a heavily calcified 40% stenosis in the ___ 
segment, and a 40% stenosis in the mid segment.
* Circumflex
The Circumflex has a hazy 90% stenosis in the mid segment..
The ___ Marginal is a large branching vessel with 40% stenosis..
* Right Coronary Artery
The RCA has 30% stenosis in the ___ segment.

Interventional Details
LMCA engaged using a ___ EBU 3.75 guiding catheter which provided 
good support. Mid LCX stenosis pre-dilated using a 2.5mm 
balloon. 3.5mm x 16mm Promus Premier stent then deployed at 16 
atm. Excellent final result with 0% residual stenosis, no 
dissection, and brisk flow.
Intra-procedural Complications: None

Impressions:
1 vessel CAD.
Successful PTCA/stent of mid LCX using drug-eluting stent.

MICRO: 
======
NONE

DISCHARGE LABS: 
================
___ 06:40AM BLOOD WBC-9.7 RBC-5.20 Hgb-16.2 Hct-47.5 MCV-91 
MCH-31.2 MCHC-34.1 RDW-12.7 RDWSD-42.2 Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-109* UreaN-14 Creat-0.8 Na-141 
K-3.5 Cl-102 HCO3-25 AnGap-18
___ 12:35PM BLOOD CK-MB-7 cTropnT-0.34*
___ 06:40AM BLOOD Calcium-9.1 Phos-2.9 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is an ___ male history of hypertension, 
hyperlipidemia, with recent outpatient positive stress test who 
presented with substernal chest pain, found to have an NSTEMI 
now s/p DES to LCx. His troponin downtrended post PCI. He was 
started on Aspirin, Plavix and Atorvastatin. His HCTZ was 
downtitrated to 25mg from 50 mg. 

#NSTEMI: Had unstable angina after positive stress which was 
done for stable angina, On arrival to the ED, he was found to 
have troponinemia, brought to the cath lab with 90% stenosis in 
left circumflex s/p DES. He was started on Aspirin, Plavix, and 
Atorvastatin. He was instructed about the proper use of 
nitroglycerin in the setting of taking Viagra. 

#HYPERTENSION: HCTZ downtitrated to 25 mg daily from 50 mg daily 
given higher likelihood of side effects above 25 mg.  If 
uncontrolled hypertension could consider increase of nifedipine. 


Transitional Issues: 

[ ] HCTZ down titrated to 25mg, consider increasing nifedipine 
if hypertensive. 
[ ] Started on Atorvastatin 80 mg 
[ ] Started on Plavix daily

# CODE: Full 
# CONTACT: Patient, ___ (Wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Hydrochlorothiazide 50 mg PO DAILY 
3. NIFEdipine CR 30 mg PO DAILY 
4. Sildenafil 20 mg PO DAILY:PRN desire for erection 
5. Montelukast 10 mg PO DAILY 

 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Montelukast 10 mg PO DAILY 
4. NIFEdipine CR 30 mg PO DAILY 
5. Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
6. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
7. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
8. Sildenafil 20 mg PO DAILY:PRN desire for erection 
9. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
DO NOT TAKE WITHIN 24 HOURS OF TAKING VIAGRA 
RX *nitroglycerin [Nitrostat] 0.3 mg 1 tablet(s) sublingually 
every 5 minutes Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Non ST Elevation Myocardial Infarction

Secondary: 
Hypertension
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You came into the hospital because you were having chest pain.  
The chest pain was discovered to be due to a heart attack.  You 
were brought to the catheterization lab and you had a stent 
placed because one of your coronary arteries was blocked. 

It is very important that you continue to take your aspirin and 
Plavix (Clopidogrel). You should take this medication every day. 
 You should not stop taking it unless told to by your 
cardiologist. 

Please follow-up with your primary care physician and your 
cardiologist. 

It was a pleasure taking care of you, 

-Your ___ Team 
 
Followup Instructions:
___